US08431605B2
A solution of 2-methoxy-3-nitro-pyridine (70. g, 0.45 mol) in methanol (700 mL) containing palladium on carbon (7 g, 10%) was stirred under an atmosphere of hydrogen for 15 hours. The catalyst was filtered and washed with methanol. The filtrate was evaporated to dryness to give crude 2-methoxy-pyridin-3-ylamine (48 g, 0.39 mol, 87%), which was used directly in the next step.

reactant | 2-methoxy-3-nitro-pyridine | 0.45 mol | COC1=NC=CC=C1[N+](=O)[O-] | C6H6N2O3
solvent | methanol | 700 mL | CO | CH4O
catalyst | palladium on carbon | 7 g | [Pd] | Pd
product | 2-methoxy-pyridin-3-ylamine | 0.39 mol, 48 g, 87% | COC1=NC=CC=C1N | C6H8N2O
